US06846915B2
Preparation of 3-benzyloxy-6-methyl-4-(2-thioxo-thiazolidine-3-carbonyl)-2(1H)-pyridinone (Formula 12 in Scheme 2)
3-benzyloxy-4-carboxy-6-methyl-2(1H)-pyridinone (5.39 g, 21.1 mmol) was dissolved in dry THF (200 ml). Then 2-mercaptothiazoline (2.71 g, 23.2 mmol) and DMAP (0.25 g, 2.0 mmol) were added and the solution stirred under an atmosphere of N2 for 1 h. Then dicyclohexylcarbodiimide (DCC, 5.12 g, 25.3 mmol) was added in small portions at intervals split over 3 hrs. The reaction was left to stir for 16h, and then left to stand at 0° C. for a further 24 h. The dicyclohexylurea (DCU) was removed by filtration, and the solvents removed. The remaining residue was dissolved in CH2Cl2, filtered and purified by a gradient flash silica column (2-6% CH3OH in CH2Cl2). The solvents were removed from the appropriate fractions by rotary evaporation, and the residue recrystallized from acetone, yielding yellow crystals (3.78 g, 56%). 1H NMR (CDCl3, 300 MHz): δ=7.32-7.47 (m, 5H, aromatic Bn), 5.98 (s, 1H, CH), 5.34 (s, 2H, Bn CH2), 4.34 (t, J=7.3 Hz, 2H, CH2) 2.92 (t, J=7.3 Hz, 2H, CH2), 2.34 (s, 3H, CH3) ppm. Anal. Calcd (Found) for C17H16N2O3S2: C, 56.65 (56.50); H, 4.47 (4.51); N, 7.77 (7.70). FAB-MS (+): m/z: 361[M+H]+.

reactant | 3-benzyloxy-4-carboxy-6-methyl-2(1H)-pyridinone | 21.1 mmol, 5.39 g | C(C1=CC=CC=C1)OC=1C(NC(=CC1C(=O)O)C)=O | C14H13NO4
reactant | 2-mercaptothiazoline | 23.2 mmol, 2.71 g | SC=1SCCN1 | C3H5NS2
reactant | dicyclohexylcarbodiimide | 25.3 mmol, 5.12 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 2.0 mmol, 0.25 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-benzyloxy-6-methyl-4-(2-thioxo-thiazolidine-3-carbonyl)-2(1H)-pyridinone | 3.78 g, 56% | C(C1=CC=CC=C1)OC=1C(NC(=CC1C(=O)N1C(SCC1)=S)C)=O | C17H16N2O3S2
